US08980903B2
4-Chloro-5-iodopyridin-2-amine (8.100 g, 31.8 mmol), sodium carbonate (5.00 g, 47.7 mmol), and 3-chloropyridin-4-ylboronic acid hydrate (11.2 g, 63.7 mmol) were combined in 100 mL of 1,4-Dioxane and 25 mL of water. Nitrogen was bubbled through the solution for ˜2 min before adding trans-dichlorobis(triphenyl-phosphine)palladium (II) (2.05 g, 2.92 mmol). The solution was heated to 60° C. overnight. Additional trans-dichlorobis(triphenyl-phosphine)palladium (II) (0.2 g, 0.285 mmol), 3-chloropyridin-4-ylboronic acid hydrate (4.00 g, 22.8 mmol), 15 mL of water (degassed) and sodium carbonate (1.75 g, 16.6 mmol) were added. The solution was heated to 100° C. for 5 hours. Additional 3-chloropyridin-4-ylboronic acid hydrate (4.00 g, 22.8 mmol) was added and the reaction continued for 2 h at 100° C. The solution was concentrated under vacuum to ⅕th the volume and extracted between DCM and water. The aqueous layer was extracted with 10% isopropanol/DCM. The combined organics were dried over MgSO4 and then concentrated under vacuum to give an orange solid. The solid was slurried with DCM and then filtered through a fitted funnel. The solids were washed with additional DCM. The combined filtrate was purified on a 80 g Combiflash column (dry loaded), eluting with 2% methanol/0.1% NH4OH (˜28% in water)/DCM to 8% methanol/0.4% NH4OH (˜28% in water)/DCM. The fractions containing the product were concentrated under vacuum to give a yellowish solid. The solids were triturated with DCM to give 4-chloro-5-(3-chloropyridin-4-yl)pyridin-2-amine (3.93 g, 51%) as an off white solid. 1H NMR (500 MHz, DMSO-d6) δ ppm 8.73 (1 H, s), 8.58 (1 H, d, J=4.9 Hz), 7.87 (1 H, s), 7.44 (1 H, d, J=4.9 Hz), 6.64 (1 H, s), 6.55 (2 H, br. s.); LCMS-ESI (POS), M/Z, M+1: Found 239.9.

reactant | 4-Chloro-5-iodopyridin-2-amine | 31.8 mmol, 8.100 g | ClC1=CC(=NC=C1I)N | C5H4ClIN2
reactant | sodium carbonate | 47.7 mmol, 5.00 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-chloropyridin-4-ylboronic acid hydrate | 63.7 mmol, 11.2 g | O.ClC=1C=NC=CC1B(O)O
reactant | 3-chloropyridin-4-ylboronic acid hydrate | 22.8 mmol, 4.00 g | O.ClC=1C=NC=CC1B(O)O
reactant | sodium carbonate | 16.6 mmol, 1.75 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-chloropyridin-4-ylboronic acid hydrate | 22.8 mmol, 4.00 g | O.ClC=1C=NC=CC1B(O)O
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | 1,4-Dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | water | 25 mL | O | H2O
catalyst | trans-dichlorobis(triphenyl-phosphine)palladium (II) | 2.92 mmol, 2.05 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | trans-dichlorobis(triphenyl-phosphine)palladium (II) | 0.285 mmol, 0.2 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 15 mL | O | H2O
product | 4-chloro-5-(3-chloropyridin-4-yl)pyridin-2-amine | 3.93 g, 51% | ClC1=CC(=NC=C1C1=C(C=NC=C1)Cl)N | C10H7Cl2N3
